US07001897B2
To a solution of (3S)-3-hydroxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine (4.00 g, 15.0 mmol) (obtained as described in Reference Example 53(2)) in methylene chloride (120 ml) were added methanesulfonyl chloride (1.28 ml, 16.5 mmol) and triethylamine (2.31 ml, 16.5 mmol) in an ice bath. After stirring the mixture in the ice bath for 10 minutes, the mixture was stirred at room temperature for 2.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:2)→ethyl acetate as the eluant to afford (3S)-3-methanesulfonyloxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine (5.33 g, yield 100%) as a colorless and transparent syrup.

reactant | (3S)-3-hydroxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine | 15.0 mmol, 4.00 g | O[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O5
reactant | methanesulfonyl chloride | 16.5 mmol, 1.28 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 16.5 mmol, 2.31 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | (3S)-3-methanesulfonyloxy-1-(p-nitrobenzyloxycarbonyl)pyrrolidine | 5.33 g, yield 100% | CS(=O)(=O)O[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O7S
